* C:\Users\emanu\Documents\POLITO\ANALabs\Lab1\Sim\SampleAndHold_TrasmissionGate.asc
* Generated by LTspice 24.1.4 for Windows.
M N003 N001 vout vout CD4007_nmos
M§P vout N002 N003 N003 CD4007_pmos
M§P_inv N002 N001 Vdd Vdd CD4007_pmos
M_inv N002 N001 0 0 CD4007_nmos
Vin N003 0 PULSE(0 10 0 1m 1m 0 2m)
Vclk N001 0 PULSE(0 10 0 0 0 50u 100u)
Vdd Vdd 0 10
M§P1 0 N007 Vdd Vdd CD4007_pmos
M§P2 N007 N007 Vdd Vdd CD4007_pmos
I1 N007 0 {Iref}
M1 vout vout 0 0 CD4007_nmos
M3 Vdd vout N008 N008 CD4007_nmos
I3 0 vout 100m
C1 vout 0 2n
M§P3 N009 N009 Vdd Vdd CD4007_pmos
M§P4 0 N009 Vdd Vdd CD4007_pmos
R2 N008 0 1Meg
I4 0 N009 10m
M2 N004 N006 0 0 CD4007_nmos
V1 N006 0 10
R1 0 N004 {Rx}
M4 Vdd 0 N005 N005 CD4007_nmos
R3 N005 0 1Meg
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\emanu\AppData\Local\LTspice\lib\cmp\standard.mos
.lib CD4007.lib
.tran 0 8m 0 0.001
.step param Iref 100u 1mA 250u
.step param Rx 200k 1Meg 100k
.backanno
.end
